US07074799B2
Heat a mixture of 4-chloro-7-(2-trifluoromethyl-phenyl)-quinoline (42 mg, 0.14 mmol) and 4-(tert-butyl)aniline (41 mg, 0.29 mmol) in 2-propanol (10 mL) at reflux for 3 hours. Evaporate the mixture, add 1M NaOH (10 mL), extract twice with EtOAc (10 mL each), dry (Na2SO4), and evaporate to provide the crude product. Purify by silica gel chromatography, eluting with 75% hexane-EtOAc to provide (4-tert-Butyl-phenyl)-[7-(2-trifluoromethyl-phenyl)-quinolin-4-yl]-amine as a white solid. Mass spec. 420.2.

reactant | 4-chloro-7-(2-trifluoromethyl-phenyl)-quinoline | 0.14 mmol, 42 mg | ClC1=CC=NC2=CC(=CC=C12)C1=C(C=CC=C1)C(F)(F)F | C16H9ClF3N
reactant | 4-(tert-butyl)aniline | 0.29 mmol, 41 mg | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
product | (4-tert-Butyl-phenyl)-[7-(2-trifluoromethyl-phenyl)-quinolin-4-yl]-amine | C(C)(C)(C)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C1=C(C=CC=C1)C(F)(F)F | C26H23F3N2
